US05972951
5-(4-Bromo-3-methylphenyl)-3-methylisoxazole
A solution of 1-(4-bromo-3-methylphenyl)butane-1,3-dione (D77) (615 mg; 0.0024 ml) in ethanol (15 ml) was treated with hydroxylamine hydrochloride (170 mg; 0.0024 mol) and potassium carbonate (336 mg; 0.0024 mol), and the mixture heated at reflux for 2.5 hours, then overnight at room temperature. The solvent was evaporated under reduced pressure and the residue partitioned between water and ethyl acetate. The organic phase was dried (Na2SO4) and concentrated in vacuo to leave the crude isoxazole, which was purified by chromatography on silica gel, eluting with pentane, 60-80 petroleum-ether and ethyl acetate, to afford the title compound as a yellow crystalline material (477 mg, 78%).

reactant | 1-(4-bromo-3-methylphenyl)butane-1,3-dione | 0.0024 ml, 615 mg | BrC1=C(C=C(C=C1)C(CC(C)=O)=O)C | C11H11BrO2
reactant | hydroxylamine hydrochloride | 0.0024 mol, 170 mg | Cl.NO
reactant | potassium carbonate | 0.0024 mol, 336 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-(4-Bromo-3-methylphenyl)-3-methylisoxazole | BrC1=C(C=C(C=C1)C1=CC(=NO1)C)C | C11H10BrNO
